US06235731B1
2) Synthesis of N-[trans-4-(4-phenylpiperidin-1-ylmethyl)-1-cyclohexylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 549.7 mg (1.13 mM) of N-[trans-4-(4-phenylpiperidin-1-ylmethyl)-1-cyclohexylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (5 ml) was added 1.0 ml (12.0 mM) of 12N-hydrochloric acid and the mixture was stirred at room temperature for several minutes. After the reaction mixture was concentrated under reduced pressure, diethyl ether was added to the residue and the resulting crystals were collected by filtration and rinsed with ethanol and diethyl ether to provide the title compound as orange-colored crystals.

reactant | N-[trans-4-(4-phenylpiperidin-1-ylmethyl)-1-cyclohexylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 1.13 mM, 549.7 mg | C1(=CC=CC=C1)C1CCN(CC1)C[C@@H]1CC[C@H](CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C29H34N4OS
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[trans-4-(4-phenylpiperidin-1-ylmethyl)-1-cyclohexylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1CCN(CC1)C[C@@H]1CC[C@H](CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C29H34N4OS.2ClH/c34-29(26-17-25-19-30-27-7-4-8-28(35-26)33(25)27)31-18-21-9-11-22(12-10-21)20-32-15-13-24(14-16-32)23-5-2-1-3-6-23;;/h1-8,17,19,21-22,24H,9-16,18,20H2,(H,31,34);2*1H/t21-,22-;;
